US04914188
Step 2: N-Methyl-L-Alanyl-L-Alanine benzyl Ester
To a stirred solution of 17 g (0.0466 mole) of Boc-N-methyl-L-alanyl-L-alanine benzyl ester in 150 ml of dry dichloromethane, cooled at -10° C., was added 100 ml trifluoroacetic acid, which was previously cooled at -10° C. The reaction mixture was stirred for 16 hours at -5° C., then poured carefully with good stirring into a mixture of 177 g of sodium bicarbonate, ice, and 150 ml of dichloromethane. The organic layer was separated and the aqueous layer was further extracted with another 60 ml of dichloromethane. The combined organic layers were washed with 3×50 ml of saturated sodium bicarbonate solution, dried over manesium sulfate, and evaporated to give 11.6 g (91% of theory) of crude product which was used in step 3 without further purification.

reactant | Boc-N-methyl-L-alanyl-L-alanine benzyl ester | 0.0466 mole, 17 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C(=O)OC(C)(C)C)C)=O)C)=O | C19H28N2O5
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 177 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-Methyl-L-Alanyl-L-Alanine benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC)C)=O)C)=O | C14H20N2O3
